US03988454
C. 2-(4-Bromophenethyl)-benzyl bromide
A suspension of 28.5 g. (0.098 mole) of 2-(4-bromophenethyl)-benzyl alcohol in 150 ml. of 48% hydrobromic acid is stirred at reflux for 3 hours. The cooled two-phase mixture is extracted with benzene. Evaporation of the washed and dried benzene extract under reduced pressure leaves the product as the residual solid, m.p. 63°-75° C. Recrystallization from hexane affords purified material, m.p. 76°-77.5° C. A sample for analysis melts at 76.5°-78° C. after further recrystallization from hexane.

reactant | 2-(4-bromophenethyl)-benzyl alcohol | 0.098 mole | BrC1=CC=C(CCC2=C(CO)C=CC=C2)C=C1 | C15H15BrO
reactant | hydrobromic acid | Br | BrH
product | 2-(4-Bromophenethyl)-benzyl bromide | BrC1=CC=C(CCC2=C(CBr)C=CC=C2)C=C1 | C15H14Br2
